US08486952B2
A solution of 2,4-dichloro-7-(3,4-difluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine (446 mg, 1.481 mmol) and excess dimethylamine (2.222 mL, 4.44 mmol) in MeOH (6 mL) was stirred at rt for 30 min. The solvent was removed in vacuum and the crude product was purified by column chromatography on silica gel to afford 2-chloro-7-(3,4-difluorophenyl)-N,N-dimethyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine (146 mg, 0.471 mmol, 31.8% yield). LC-MS (M+H)+=310.2.

reactant | 2,4-dichloro-7-(3,4-difluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine | 1.481 mmol, 446 mg | ClC=1N=C(C2=C(N1)C(CC2)C2=CC(=C(C=C2)F)F)Cl | C13H8Cl2F2N2
reactant | dimethylamine | 4.44 mmol, 2.222 mL | CNC | C2H7N
solvent | MeOH | 6 mL | CO | CH4O
product | 2-chloro-7-(3,4-difluorophenyl)-N,N-dimethyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine | 0.471 mmol, 146 mg, 31.8% yield | ClC=1N=C(C2=C(N1)C(CC2)C2=CC(=C(C=C2)F)F)N(C)C | C15H14ClF2N3
